US04851418
[1-Methyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]-carbamic acid 1,1-dimethylethyl ester (mixture of isomers)
A solution of 6.9 g (20 mmol) of [1-methyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]-carbamic acid 1,1-dimethylethyl ester in 100 ml of methanol was treated with 1.0 g of 20% palladium on carbon and shaken in a hydrogen atmosphere at pressures of 33.6 to 52.7 psi and temperatures of 23.5°-27.0 for 18 hours. The catalyst was removed by filtration and the solvent evaporated to give 5.0 g of the title compound as a viscous liquid.

reactant | [1-methyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]-carbamic acid 1,1-dimethylethyl ester | 20 mmol, 6.9 g | CC(C)(C)OC(NC(C(NC1CN(CC1)CC1=CC=CC=C1)=O)C)=O | C19H29N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | [1-Methyl-2-oxo-2-[(3-pyrrolidinyl)amino]ethyl]-carbamic acid 1,1-dimethylethyl ester | 5.0 g | CC(C)(C)OC(NC(C(NC1CNCC1)=O)C)=O | C12H23N3O3
